US04004018
Ethanedithiol (94 g) and ethyl alpha-chloroacetoacetate (164.5 g) were dissolved in benzene (500 g), a trace of p-toluenesulfonic acid added, and the whole solution refluxed under a Dean-Stark trap for one hour, when 16 cc of water had collected. The solution was cooled, washed with ice-cold dilute caustic soda and the benzene removed in vacuo. Ethanolic caustic soda (80 g in the minimum amount of ethanol) was added and the solution refluxed for 30 minutes, then cooled, diluted with water (one volume), and made acid with dilute HCl. The thick white precipitate was filtered, washed with water and recrystallized from ethanol to give 5,6-dihydro-3-methyl-1,4-dithiin-2-carboxylic acid as long white needles, m.p. 173°-175°, yield 92 g (52%).

reactant | Ethanedithiol | 94 g | C(C)(S)S | C2H6S2
reactant | ethyl alpha-chloroacetoacetate | 164.5 g | ClC(C(=O)OCC)C(=O)C | C6H9ClO3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 500 g | C1=CC=CC=C1 | C6H6
product | 5,6-dihydro-3-methyl-1,4-dithiin-2-carboxylic acid | CC1=C(SCCS1)C(=O)O | C6H8O2S2
